US04424213
2-Azabicyclo[2.2.1]hept-5-en-3-one oxime
To a solution of hydroxylamine (from 2.1 g (0.03 m) of hydroxylamine hydrochloride, 4.3 g (0.015 m) of sodium carbonate, 10 ml of water and 200 ml of tetrahydrofuran) at 0° C. was added 5.16 g (0.021 m) of 3-tosyl-2-azabicyclo[2.2.1]hepta-2,5-diene (prepared by the procedure of J. Organic Chemistry, 39, 564 (1974)) in 50 ml of tetrahydrofuran. After being stirred overnight, during which time the temperature was allowed to warm to 25° C., the organic layer was separated, dried, and stripped of solvent. Purification of the residue by chromatography (silica gel: 1:1::dichloromethane:ethyl acetate) gave 0.8 g of material whose spectra were consistent with the title structure.

reactant | hydroxylamine | 10 ml, 2.1 g | NO | H3NO
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-tosyl-2-azabicyclo[2.2.1]hepta-2,5-diene | 5.16 g | S(=O)(=O)(C1=CC=C(C)C=C1)C1=NC2C=CC1C2 | C13H13NO2S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-Azabicyclo[2.2.1]hept-5-en-3-one oxime | 0.8 g | C12NC(C(C=C1)C2)=NO | C6H8N2O
